US05298660
11.26 g (0.05 mole) of (R)-(-)-N-(p-hydroxybenzylidene)-1-phenylethylamine were dissolved in 150 ml of ethyl alcohol. The resulting solution was admixed with 0.95 g (0.025 mole) of sodium borohydride at room temperature, stirred at a temperature of from 30° to 35° C. for 2 hours, and then stirred at a temperature of from 55° to 60° C. for 2 hours. After the completion of the reaction, 28 ml of a 10% hydrochloric acid were added at room temperature to the reaction mixture, which was then concentrated under reduced pressure. The residue thus obtained was admixed with 50 ml of water, and thereafter neutralized or weakly alkalized with a 20% aqueous sodium hydroxide solution. Then an extraction operation was carried out twice with 100 ml of chloroform, and the chloroform layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressure to give 11.34 g of crude (R)-(+)-N-(p-hydroxybenzyl)- 1-phenylethylamine. The crude product was refined by a column chromatography employing silica gel, so that 10.64 g of a refined product were obtained as viscous oil. Yield: 93.6%.

reactant | (R)-(-)-N-(p-hydroxybenzylidene)-1-phenylethylamine | 0.05 mole, 11.26 g | OC1=CC=C(C=N[C@H](C)C2=CC=CC=C2)C=C1 | C15H15NO
reactant | sodium borohydride | 0.025 mole, 0.95 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | (R)-(+)-N-(p-hydroxybenzyl)- 1-phenylethylamine | 11.34 g | OC1=CC=C(CN[C@H](C)C2=CC=CC=C2)C=C1 | C15H17NO
